US05728835
N-(2-Cyanophenyl)-4-methoxybenzenesulfonamide
Using 2-aminobenzonitrile (1.03 g, 8.55 mmol) and 4-methoxybenzenesulfonyl chloride (1.78 g, 8.55 mmol), the procedure of Reference Example 2 was repeated to obtain 1.57 g (63.7%) of the title compound in the form of colorless solid.

reactant | 2-aminobenzonitrile | 8.55 mmol, 1.03 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | 4-methoxybenzenesulfonyl chloride | 8.55 mmol, 1.78 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-(2-Cyanophenyl)-4-methoxybenzenesulfonamide | 1.57 g, 63.7% | C(#N)C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C14H12N2O3S
